US07902373B2
To a round-bottom flask containing tert-butyl 6-[4-({[6-(3-fluorophenyl)pyridin-3-yl]carbonyl}amino)piperidin-1-yl]nicotinate was added DCM (50 mL) and TFA (18 mL). After stirring at rt overnight the reaction was diluted with toluene (10 mL) and the solvent removed to give 6-[4-({[6-(3-fluorophenyl)pyridin-3-yl]carbonyl}amino)piperidin-1-yl]nicotinic acid, as a white solid (30 mg, 78%). 1H NMR (400 MHz, DMSO-d6) □ ppm 9.06 (1H, s), 8.62 (1H, s), 8.47 (1H, d, J=7.9 Hz), 8.22-8.32 (1H, m), 8.10 (1H, d, J=8.1 Hz), 7.85-8.01 (3H, m), 7.47-7.60 (1H, m), 7.29 (1H, t, J=7.8 Hz), 6.89 (1H, d, J=9.3 Hz), 4.42 (2H, d, J=13.2 Hz), 3.10 (2H, t, J=12.7 Hz), 2.33-2.54 (2H, m), 1.91 (2 h, d, J=13.2 Hz), 1.41-1.63 (2H, m). HRMS (TOF, ES+) calculated: 421.1676; observed 421.1722.

reactant | tert-butyl 6-[4-({[6-(3-fluorophenyl)pyridin-3-yl]carbonyl}amino)piperidin-1-yl]nicotinate | FC=1C=C(C=CC1)C1=CC=C(C=N1)C(=O)NC1CCN(CC1)C1=NC=C(C(=O)OC(C)(C)C)C=C1 | C27H29FN4O3
reactant | DCM | 50 mL | C(Cl)Cl | CH2Cl2
reactant | TFA | 18 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-[4-({[6-(3-fluorophenyl)pyridin-3-yl]carbonyl}amino)piperidin-1-yl]nicotinic acid | FC=1C=C(C=CC1)C1=CC=C(C=N1)C(=O)NC1CCN(CC1)C1=NC=C(C(=O)O)C=C1 | C23H21FN4O3
